US05846989
a) 2-(2-Phenyl-1-propoxy)acetic acid
The subtitle compound (14.95 g) was prepared according to the procedure in example 6 part a using 2-phenyl-1-propanol (13.6 g), t-butylbromoacetate (19.5 g), tetrabutylammoniumbromide (3.2 g), toluene (70 ml), 50% aqueous sodium hydroxide (25 ml).

reactant | 2-phenyl-1-propanol | 13.6 g | C1(=CC=CC=C1)C(CO)C | C9H12O
reactant | t-butylbromoacetate | 19.5 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
catalyst | tetrabutylammoniumbromide | 3.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Phenyl-1-propoxy)acetic acid | 14.95 g | C1(=CC=CC=C1)C(COCC(=O)O)C | C11H14O3
